US08207216B2
Method A: 3-Benzofuran-3-yl-4-(5-bromo-1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione (19). (See Scheme 1 and Scheme 3)
To a solution of 5-bromo-indole (3.30 g, 11.73 mmol) in dry DMF (15 mL) cooled with an ice bath was added NaH (55% suspension in mineral oil, 1.02 g, 23.46 mmol), followed by methyl iodide (2.50 g, 17.60 mmol) after which the reaction mixture was allowed to warm to room temperature. After 6 h the reaction mixture was poured into ice-water; 1N HCl was added to adjust the pH to about 4, and the solution was extracted with ethyl acetate. The ethyl acetate extract was washed with water and brine, then dried over anhydrous Na2SO4, and concentrated in vacuo. The residue was filtered through silica gel (ethyl acetate:hexane; 1:4). The product, 5-bromo-1-methyl-1H-indole, was subjected to further reaction without additional purification. To a solution of 5-bromo-1-methyl-1H-indole in Et2O (20 mL) cooled to 0° C. a 2.0 M solution of oxalyl chloride in THF (17.0 mL, 34.0 mmol) was added dropwise. The reaction was then stirred for 0.5 h at 0° C. and allowed to warm to room temperature and stirred overnight. It was then cooled to −60° C. and a 21% solution of NaOEt in EtOH (13.50 mL, 45.70 mmol) was added, after which the reaction mixture was allowed to warm to room temperature. The reaction was quenched by the addition of water and diluted with ethyl acetate. The organic layer was separated, dried over anhydrous Na2SO4 and concentrated. The residue was purified by column chromatography (ethyl acetate:hexane; 1:3) to give a product (2.92 g, 86%).

reactant | 5-bromo-indole | 11.73 mmol, 3.30 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | NaH | 23.46 mmol, 1.02 g | [H-].[Na+]
reactant | methyl iodide | 17.60 mmol, 2.50 g | CI | CH3I
reactant | HCl | 1N | Cl | ClH
reactant | 5-bromo-1-methyl-1H-indole | BrC=1C=C2C=CN(C2=CC1)C | C9H8BrN
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | THF | 34.0 mmol, 17.0 mL | C1CCOC1 | C4H8O
reactant | NaOEt | CC[O-].[Na+]
reactant | EtOH | 45.70 mmol, 13.50 mL | CCO | C2H6O
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | 3-Benzofuran-3-yl-4-(5-bromo-1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | 2.92 g, 86% | O1C=C(C2=C1C=CC=C2)C=2C(NC(C2C2=CN(C1=CC=C(C=C21)Br)C)=O)=O | C21H13BrN2O3
